US06939928B1
(1) Synthesis of 2-(cyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane
To a solution of 3.0 g(10.8 mmol) of 3,6-di-tert-butylfluorene in 40 ml of THF, 7.0 ml (11.3 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for 6 hours. From the reaction mixture, the solvent was removed under reduced pressure, and the residue was washed with pentane and dried to obtain a white solid. To a solution of the solid in 30 ml of THF, a solution of 1.4 g (13.2 mmol) of 6,6-dimethylfulvene in 30 ml of THF was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring for 5 hours. Then, 30 ml of water was added. The organic phase extracted with diethyl ether and separated was dried over magnesium sulfate and filtered. From the filtrate, the solvent was removed under reduced pressure to obtain a solid. The solid was recrystallized from methanol to obtain 2.9 g of a slightly yellow solid. The analyzed values are given below.

reactant | 3,6-di-tert-butylfluorene | 10.8 mmol, 3.0 g | C(C)(C)(C)C=1C=CC=2CC3=CC=C(C=C3C2C1)C(C)(C)C | C21H26
reactant | hexane | 11.3 mmol, 7.0 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 6,6-dimethylfulvene | 13.2 mmol, 1.4 g | CC(=C1C=CC=C1)C | C8H10
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 30 ml | O | H2O
product | 2-(cyclopentadienyl)-2-(3,6-di-tert-butylfluorenyl)propane | C1(C=CC=C1)C(C)(C)C1=CC(=CC=2C3=CC(=CC=C3CC12)C(C)(C)C)C(C)(C)C | C29H36
